US08486946B2
Step 1: Preparation of (±)-methyl 2-(prop-2-en-1-yloxy)propanoate
(±)-Methyl-2-hydroxypropanoate (7.6 g, 74 mmol) was dissolved in tetrahydrofuran (100 mL), cooled to 0° C. and treated with sodium hydride (3.6 g, 60% dispersion, 89 mmol, 1.2 equiv) portionwise over 45 minutes. The mixture was warmed to ambient temperature, stirred for 30 minutes, and then cooled to 0° C. Allyl bromide (8.4 mL, 96 mmol, 1.3 equiv) was added, the mixture was warmed to ambient temperature and stirred for an additional 14 hours. Sodium bicarbonate (10 mL, aqueous saturated) was added slowly and the mixture was stirred for 30 minutes before being poured into water (500 mL). The aqueous layer was extracted with ethyl acetate (2×300 mL) and the combined organic extracts were washed once with brine, dried with sodium sulfate, filtered and concentrated in vacuo, providing the titled compound.

reactant | (±)-Methyl-2-hydroxypropanoate | 74 mmol, 7.6 g | COC(C(C)O)=O | C4H8O3
reactant | sodium hydride | 89 mmol, 3.6 g, 1.2 equiv | [H-].[Na+]
reactant | Allyl bromide | 96 mmol, 8.4 mL, 1.3 equiv | C(C=C)Br | C3H5Br
reactant | Sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 500 mL | O | H2O
product | (±)-methyl 2-(prop-2-en-1-yloxy)propanoate | C(C=C)OC(C(=O)OC)C | C7H12O3
